US05162326
3-Benzyl-6-tert-butylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione
A mixture of 3-benzyl-6-chloro-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione (0.5 g), tert-butylmercaptan (0.1 ml) and potassium carbonate (0.14 g) in acetonitrile (10 ml) was heated under reflux for 8 hours with stirring. The reaction mixture was allowed to cool and the precipitate was removed by filtration. The filtrate was concentrated to dryness. The resulting residue was dissolved in methanol (15 ml) and 1N hydrochloric acid (1 ml) and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated to dryness and then the residue was extracted with methylene chloride-water. The organic layer was washed with water, dried, and evaporated to dryness. The resulting residue was purified by column chromatography on silica gel to give pale yellow amorphous powders (0.2 g, 54%).

reactant | 3-benzyl-6-chloro-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.5 g | C(C1=CC=CC=C1)N1C(N(C(=CC1=O)Cl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C44H33ClN6O2
reactant | tert-butylmercaptan | 0.1 ml | C(C)(C)(C)S | C4H10S
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-Benzyl-6-tert-butylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.2 g, 54% | C(C1=CC=CC=C1)N1C(N(C(=CC1=O)SC(C)(C)C)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O | C29H28N6O2S
